US04946235
A solution of N-(3-nitrophenyl)-4-nitro phthalimide (5.0 g. ) in tetrahydrofuran (300 ml) was reduced under hydrogen (45 psi) using platinum oxide catalyst (0.2 g.) for 18 hours. The solution was dried (MgSO4), filtered through Celite, and the solvent evaporated under reduced pressure to yield 4-amino-N-(3-aminophenyl)phthalimide; 3.8 g. (93.1%); M.P. 228-231°. Calcd. for C14H11N3O2 : C, 66.4; H, 4.4; N, 16.6. Found: C, 66.9; H, 4.9; N, 16.0.

reactant | N-(3-nitrophenyl)-4-nitro phthalimide | 5.0 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C14H7N3O6
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 4-amino-N-(3-aminophenyl)phthalimide | NC=1C=C2C(C(=O)N(C2=O)C2=CC(=CC=C2)N)=CC1 | C14H11N3O2
